US07452894B2
tert-Butyl 2-amino-6-chloro-9H-purine-9-carboxylate
This was prepared from 6-chloro-1H-purine-2-amine and di-tert-butyl dicarbonate by method G to give title compound (862 mg, 64%) as a white solid; mp>350° C.; IR νmax (Nujol)/mc−1 3521, 3304, 3193, 3129, 2955, 2925, 2854, 1772, 1730, 1632, 1561, 1511, 1367, 1308 and 1155; NMR δH (400 MHz, DMSO) 1.58 (9H, s), 7.06 (2H, s), 8.36 (1H, s). Anal. Calcd for C10H12ClN5O2: C, 44.54; H, 4.48; N, 25.96. Found: C, 44.27; H, 4.54; N, 25.88.

reactant | 6-chloro-1H-purine-2-amine | ClC1=C2N=CN=C2N=C(N1)N | C5H4ClN5
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-Butyl 2-amino-6-chloro-9H-purine-9-carboxylate | 862 mg, 64% | NC1=NC(=C2N=CN(C2=N1)C(=O)OC(C)(C)C)Cl | C10H12ClN5O2
